US08541457B2
Synthesis of N-Benzyl-4-methyl-2-(2-oxo-1-phenyl-1,2-dihydropyridine-4-carboxamido)thiazole-5-carboxamide
To a degassed solution of N-benzyl-4-methyl-2-(2-oxo-1,2-dihydropyridine-4-carboxamido)thiazole-5-carboxamide (0.060 g, 0.16 mmol), potassium carbonate (0.033 g, 0.24 mmol) and 8-hydroxyquinoline (0.0034 g, 0.024 mmol) in dimethyl sulfoxide (5 mL) were added iodobenzene (0.039 g, 0.19 mmol) and finally copper(I) iodide (0.0046 g, 0.025 mmol). The reaction mixture was heated at 130° C. for 16 hours, then cooled to ambient temperature and filtered. The solvent was removed in vacuo. The residue was dissolved in dichloromethane (40 mL) and washed with saturated aqueous sodium bicarbonate solution (2×20 mL), and brine (20 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrate in vacuo. The residue was recrystallized from ethyl acetate and methanol to yield a colorless solid in 20% yield (0.012 g); m.p. 260-262° C.; 1H NMR (DMSO-d6, 300 MHz) δ 13.11 (s, br., 1H), 8.63 (t, J=5.8 Hz, 1H), 7.78 (d, J=7.1 Hz, 1H), 7.58-7.37 (m, 5H), 7.35-7.26 (m, 4H), 7.23-7.18 (m, 1H), 7.14 (d, J=1.5 Hz, 1H), 6.75 (dd, J=1.5, 7.1 Hz, 1H), 4.38 (d, J=5.8 Hz, 2H), 2.51 (s, 3H); 13C NMR (DMSO-d6, 75 MHz) δ 165.5, 162.0, 162.0, 161.3, 140.7, 140.2, 140.0, 139.9, 137.9, 129.6, 128.9, 128.7, 127.7, 127.2, 127.0, 120.9, 103.7, 43.1, 16.9; MS (ES+) m/z 445.0 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxo-1,2-dihydropyridine-4-carboxamido)thiazole-5-carboxamide | 0.16 mmol, 0.060 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)C1=CC(NC=C1)=O)C | C18H16N4O3S
reactant | potassium carbonate | 0.24 mmol, 0.033 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-hydroxyquinoline | 0.024 mmol, 0.0034 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | iodobenzene | 0.19 mmol, 0.039 g | IC1=CC=CC=C1 | C6H5I
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.025 mmol, 0.0046 g | [Cu]I
product | N-Benzyl-4-methyl-2-(2-oxo-1-phenyl-1,2-dihydropyridine-4-carboxamido)thiazole-5-carboxamide | 20% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)C1=CC(N(C=C1)C1=CC=CC=C1)=O)C | C24H20N4O3S
